US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-3-(1-naphthalenylmethyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (100 mg, 0.21 mmol) in ethanol (2 ml) was added 8N aqueous sodium hydroxide solution (130 ml) and the mixture was heated under reflux for 4 hrs. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1). Recrystallization from diisopropyl ether-hexane gave (1RS,2SR)-1-(4-fluorophenyl)-2-((1-naphthalenylmethyl)amino)-3-(4-(trifluoromethyl)phenyl)-1-propanol (29.6 mg, 31%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-3-(1-naphthalenylmethyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 0.21 mmol, 100 mg | FC1=CC=C(C=C1)C1C(N(C(O1)=O)CC1=CC=CC2=CC=CC=C12)CC1=CC=C(C=C1)C(F)(F)F | C28H21F4NO2
reactant | sodium hydroxide | 8N, 130 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | (1RS,2SR)-1-(4-fluorophenyl)-2-((1-naphthalenylmethyl)amino)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 29.6 mg, 31% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NCC1=CC=CC2=CC=CC=C12)O | C27H23F4NO
